US05556861
1-Cyclopropyl-7-fluoro-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions of Example 11, but starting with 1.5 g of 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 1.13 g of 3-(methylamino)azetidine dihydrochloride. The reaction mixture is stirred for 1 hour at 40° C. 1 g of 1-cyclopropyl-7-fluoro-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid, which decomposes at 262° C.

reactant | 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)O | C16H10F2N2O3
reactant | 3-(methylamino)azetidine dihydrochloride | 1.13 g | Cl.Cl.CNC1CNC1
product | 1-cyclopropyl-7-fluoro-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(C3)NC)=O)C(=O)O | C20H19FN4O3
